US04749379
EXAMPLE 11 Preparation of 2-methoxy-4-(γ-hydroxypropyl)amino-5-nitrophenol
A mixture consisting of 0.013 mol (3.12 g) of 2-(γ-hydroxypropyl)amino-4,5-methylenedioxy-1-nitrobenzene, prepared according to Example 5, and 22 ml of a 30% strength solution of sodium methylate in methanol are brought to the refluxing temperature of the methanol for 10 minutes.

reactant | 2-(γ-hydroxypropyl)amino-4,5-methylenedioxy-1-nitrobenzene | 0.013 mol, 3.12 g | OCCCNC1=C(C=C2C(=C1)OCO2)[N+](=O)[O-] | C10H12N2O5
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-methoxy-4-(γ-hydroxypropyl)amino-5-nitrophenol | COC1=C(C=C(C(=C1)NCCCO)[N+](=O)[O-])O | C10H14N2O5
